US07053088B2
(b) Quinolin-7-yl-[6-(4-trifluoromethyl-piperidin-1-yl)-pyrimidin-4-yl]-amine
This compound could be prepared from (6-chloro-pyrimidin-4-yl)-quinolin-7-yl-amine and 4-trifluoromethyl-piperidine in the presence of K2CO3 and DMF.

reactant | (6-chloro-pyrimidin-4-yl)-quinolin-7-yl-amine | ClC1=CC(=NC=N1)NC1=CC=C2C=CC=NC2=C1 | C13H9ClN4
reactant | 4-trifluoromethyl-piperidine | FC(C1CCNCC1)(F)F | C6H10F3N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Quinolin-7-yl-[6-(4-trifluoromethyl-piperidin-1-yl)-pyrimidin-4-yl]-amine | N1=CC=CC2=CC=C(C=C12)NC1=NC=NC(=C1)N1CCC(CC1)C(F)(F)F | C19H18F3N5
